US08252806B2
(3,4-Dichloro-phenyl)-[2-(3,5-dimethyl-pyrazol-1-yl)-quinazolin-4-yl]-amine (Compound B5)
Was prepared according to Method B from 2,4-dichloroquinazoline, 3,4-di-chloroaniline and 3,5-dimethylpyrazole. Mp. 223.9-226.5° C.

reactant | 2,4-dichloroquinazoline | ClC1=NC2=CC=CC=C2C(=N1)Cl | C8H4Cl2N2
reactant | 3,4-di-chloroaniline | ClC=1C=C(N)C=CC1Cl | C6H5Cl2N
reactant | 3,5-dimethylpyrazole | CC1=NNC(=C1)C | C5H8N2
product | (3,4-Dichloro-phenyl)-[2-(3,5-dimethyl-pyrazol-1-yl)-quinazolin-4-yl]-amine | ClC=1C=C(C=CC1Cl)NC1=NC(=NC2=CC=CC=C12)N1N=C(C=C1C)C | C19H15Cl2N5
